US06492562B1
G. (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxyoctanoyl)]-2-benzoxazolone
Was prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with hexanal.

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | hexanal | C(CCCCC)=O | C6H12O
product | (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxyoctanoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](CCCCC)O | C16H21NO4
